US05783522
3-Chloro-2-(4-chloro-3-methoxyphenyl)-5-trifluoromethylpyridine (Table 1, Example I.001)
38.8 g (0.180 mol) of 2,3-dichloro-5-trifluoromethylpyridine, 33.5 g (0.180 mol) of 4-chloro-3-methoxybenzeneboronic acid, 0.7 g (0.61 mmol) of tetrakis(triphenylphosphine)palladium(O) and 45.3 g (0.539 mol) of sodium bicarbonate in a mixture of 550 ml of dimethoxyethane and 550 ml of water were refluxed for four hours. The mixture was then acidified to pH 4-5 with dilute hydrochloric acid, the dimethoxyethane was removed by distillation, and the remaining aqueous phase was extracted with methylene chloride. The combined methylene chloride phases were washed with water, dried over sodium sulfate and evaporated. The residue was stirred with a little cold n-hexane, filtered off with suction and dried. Yield: 44.2 g (76%) of colorless crystals of melting point 72° C.

reactant | 2,3-dichloro-5-trifluoromethylpyridine | 0.180 mol, 38.8 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | 4-chloro-3-methoxybenzeneboronic acid | 0.180 mol, 33.5 g | ClC1=C(C=C(C=C1)B(O)O)OC | C7H8BClO3
reactant | sodium bicarbonate | 0.539 mol, 45.3 g | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethoxyethane | 550 ml | C(OC)COC | C4H10O2
solvent | water | 550 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.61 mmol, 0.7 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 3-Chloro-2-(4-chloro-3-methoxyphenyl)-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)OC | C13H8Cl2F3NO
